US06010851
Inosine (2 g/dl) and sodium tripolyphosphate, sodium polyphosphate (trade name: Polygon P, produced by Chiyoda Chemical), disodium phenylphosphate, or disodium carbamyl phosphate (10 g/dl) as a phosphate group donor were dissolved in sodium acetate buffer (pH 4.0), to which the enzyme sample prepared in Example 1 was added so that its concentration was 50 units/dl. The reaction mixture was incubated at 30° C. for 3 hours while maintaining pH at 4.0. The amount of 5'-inosinic acid produced by the reaction is shown in Table 3.

reactant | Inosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | sodium tripolyphosphate | [O-]P(=O)([O-])OP(=O)([O-])OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | disodium phenylphosphate | C1(=CC=CC=C1)OP(=O)([O-])[O-].[Na+].[Na+]
reactant | disodium carbamyl phosphate | P(=O)(OC(N)=O)([O-])[O-].[Na+].[Na+]
solvent | sodium acetate | pH 4.0 | C(C)(=O)[O-].[Na+]
product | 5'-inosinic acid | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(O)=NC=NC12 | C10H13N4O8P
